US09376442B2
4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxy-1-(methoxyacetyl)piperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxypiperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f39) and commercially available methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxypiperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CNCC[C@@H]2O
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxy-1-(methoxyacetyl)piperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CN(CC[C@@H]2O)C(COC)=O | C27H32FN5O6
